US07030084B2
5.2 Triethylene Glycol and PEG9
Insulin (1.503 g, 0.26 mmoles) was weighed in a round bottom flask equipped with a stir bar. While stirring, DMSO (5 ml) was carefully added and allowed to stir until dissolved. Triethylamine (2.08 mmoles) was added and stirred for 10 minutes. Activated oleate triethylene glycol in minimum amount of DMSO (2 ml) was added carefully all at once and stirred for 3 h at room temperature. The reaction was monitored via HPLC every 30 mins. The conjugate was purified using a preparative HPLC.

reactant | Triethylamine | 2.08 mmoles | C(C)N(CC)CC | C6H15N
reactant | oleate triethylene glycol | C(COCCOCCO)O.C(CCCCCCC\C=C/CCCCCCCC)(=O)O
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | Triethylene Glycol | C(COCCOCCO)O | C6H14O4
